US07750154B2
3-[6-[2-(Acetylamino)ethoxy]-4-oxoquinazolin-3(4H)-yl]-N-cyclopropyl-4-methylbenzamide (AZ12280339)
3-[6-(2-Aminoethoxy)-4-oxoquinazolin-3(4H)-yl]-N-cyclopropyl-4-methylbenzamide (0.1 g), acetyl chloride (0.025 ml), and triethylamine (0.074 ml) were stirred in methylene chloride (2 ml) under an atmosphere of argon for 2 hours at room temperature. The reaction mixture was diluted with ethyl acetate and washed with water (2×), brine, dried (magnesium sulfate) and concentrated. Purification by column chromatography on a silica column eluting with 10% methanol/ethyl acetate gave the title compound (0.067 g) as a white solid; NMR Spectrum: (DMSOd6) 0.56 (m, 2H), 0.69 (m, 2H), 1.82 (s, 3H), 2.14 (s, 3H), 2.86 (m, 1H), 3.47 (m, 2H), 4.13 (m, 2H), 7.52 (m, 2H), 7.59 (s, 1H), 7.74 (d, 1H), 7.83 (s, 1H), 7.90 (d, 1H), 8.09 (t, 1H), 8.20 (s, 1H), 8.43 (d, 1); Mass Spectrum: M+H+ 421.

reactant | 3-[6-(2-Aminoethoxy)-4-oxoquinazolin-3(4H)-yl]-N-cyclopropyl-4-methylbenzamide | 0.1 g | NCCOC=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)NC2CC2)C=CC1C)=O | C21H22N4O3
reactant | acetyl chloride | 0.025 ml | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.074 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[6-[2-(Acetylamino)ethoxy]-4-oxoquinazolin-3(4H)-yl]-N-cyclopropyl-4-methylbenzamide | 0.067 g | C(C)(=O)NCCOC=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)NC2CC2)C=CC1C)=O | C23H24N4O4
